Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
esophageal carcinoma, in need of portacath and laparoscopic 
J-tube placement
 
Major Surgical or Invasive Procedure:
laparoscopic jejunostomy feeding tube and port placement 
(___)

 
History of Present Illness:
Mr. ___ is a ___ with history of HTN, HLD, CAD (s/p cath ___
years ago, no stents, placed on Plavix empirically, discontinued
at this time) who presents with ___ years of worsening heartburn,
reflux, and eventually progressive dysphagia to solids and
liquids with intermittent regurgitation, increasingly worse in
the past ___ year. EGD performed on ___ at ___
demonstrated an ulcerated mass at the GEJ involving 30A% of the
luminal circumference; biopsy confirming invasive 
adenocarcinoma,
poorly differentiated, with focal singlet ring features.
Subsequent CT abdomen and pelvis from ___ demonstrated
asymmetric wall thickening at the GEJ.

PET scan on ___ confirmed FDG activity in the same region
without evidence of nodal disease.

Patient was referred to ___ and underwent EUS with FNA biopsy,
demonstrating T3N2Mx disease by EUS criteria. FNA of LN was
positive for malignant cells, consistent with metastatic
adenocarcinoma. Initial plan was for induction chemotherapy and
radiation prior to surgical therapy.

Mr. ___ presents to ___ Surgery Clinic today for
pre-opeative evaluation prior to portacath placement and
laparoscopic J-tube placement. He endorses some "lump in throat"
sensations with drinking water and solids foods occasionally, 
but
denies any recent regurgitation. No recent weight loss. 
 
Past Medical History:
-HTN
-HLD
-GERD
-BPH
-COPD
-CAD (medical management), cardiologist/PCP ___ at
___
-Obesity
-Pneumonia ___
-Sensory hearing loss
-Osteoarthritis
-BPH/urinary retention

PAST SURGICAL HISTORY:
None
 
Social History:
___
Family History:
Father had cancer (unknown type), heart disease
Siblings: brother melanoma

 
Physical ___:
On admission:
VS: Temp 98.0, HR 72, BP 150/97, RR 18, SpO2 96%RA
General: NAD, overweight male, A&Ox3
Neck: Supple, trachea midline, no cervical LAD appreciated
Respiratory: Clear to auscultation bilaterally, no 
wheezes/rales/rhonchi, good respiratory effort
Abdomen: Soft, obese, non-tender, non-distended, normoactive 
bowel sounds
Extremities: Warm and well-perfused, no cyanosis/clubbing/edema

On discharge:
VS: Tmax 98.2, Tc 97.7, HR 82, BP 130/79, RR 18, SpO2 96%3LNC
General: NAD, overweight male, A&Ox3
Neck: Supple, trachea midline, no cervical LAD appreciated
Chest: L portacath (cephalic) incision intact with dermabond, no 
surrounding erythema or induration
Respiratory: Clear to auscultation bilaterally, no 
wheezes/rales/rhonchi, good respiratory effort
Abdomen: Soft, obese, appropriately tender, non-distended, 
normoactive bowel sounds; J-tube site intact, tube clamped, 
dressing clean/dry/intact
Extremities: Warm and well-perfused, no cyanosis/clubbing/edema
 
Pertinent Results:
On admission/discharge:
___ 05:53AM BLOOD WBC-6.8 RBC-3.75* Hgb-12.5* Hct-36.6* 
MCV-98 MCH-33.3* MCHC-34.2 RDW-12.8 RDWSD-45.7 Plt ___
___ 05:53AM BLOOD Glucose-87 UreaN-13 Creat-0.8 Na-137 
K-4.0 Cl-97 HCO3-30 AnGap-14
___ 05:53AM BLOOD Calcium-8.8 Phos-4.1 Mg-1.7

Microbiology:
None this admission

Imaging and other studies:
CXR ___, Fluoro, intra-op):
IMPRESSION: 
A left central venous catheter tip appears to end in the region 
of the 
cavoatrial junction.

CXR ___, post-op):
FINDINGS:  
The left Port-A-Cath ends in the lower SVC.  Lung volumes are 
low.  With this limitation in mind, the heart size is probably 
is still top-normal.  No focal consolidation, pneumothorax, 
pulmonary edema, or effusion.  A small amount of atelectasis in 
the left lung base. 
IMPRESSION:  
No pneumothorax. 
 
Brief Hospital Course:
Mr. ___ presented to the pre-operative holding area for a port 
placement and laparoscopic jejunostomy tube placement with Dr. 
___. Please see operative report for full details. He 
tolerated the procedure well. Post-op chest 
X-ray did not show evidence of pneumothorax.

His diet was slowly advanced, and at the time of discharge, he 
was eating a regular diet, ambulating, and voiding. He was 
provided with J-tube teaching, and the tube was kept clamped at 
the time of discharge (will be used in the future, but no J-tube 
feedings needed at this time). He was safely discharged home 
with Oxycodone and Tylenol for pain control. He will follow-up 
with Dr. ___ in clinic to discuss future plans and 
future surgical management (i.e. esophagectom) after neoadjuvant 
chemotherapy and radiation. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB, wheezing 
2. budesonide-formoterol 160-4.5 mcg/actuation inhalation BID 
3. Diltiazem Extended-Release 240 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
6. Pantoprazole 20 mg PO Q24H 
7. Quinapril 20 mg PO DAILY 
8. Simvastatin 80 mg PO QPM 
9. Tiotropium Bromide 1 CAP IH DAILY 
10. Aspirin 325 mg PO DAILY 
11. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 

 
Discharge Medications:
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Pantoprazole 20 mg PO Q24H 
3. Quinapril 20 mg PO DAILY 
4. Tiotropium Bromide 1 CAP IH DAILY 
5. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
6. Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0
7. Aspirin 325 mg PO DAILY 
8. budesonide-formoterol 160-4.5 mcg/actuation inhalation BID 
9. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
10. Simvastatin 80 mg PO QPM 
11. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB, wheezing 
12. Diltiazem Extended-Release 240 mg PO DAILY 
13. Bisacodyl 10 mg PO DAILY:PRN constipation 
RX *bisacodyl 5 mg 2 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0
14. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
15. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*60 Tablet Refills:*0
16. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 10 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*50 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
T3N2Mx esophageal adenocarcinoma now s/p laparoscopic 
jejunostomy feeding tube and port placement (___)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You presented to ___ to have a portacath placed in the 
operating room, as well as a feeding tube. You tolerated the 
procedure well. You were taught how to care for your tube 
(flushing once a day, dressings), but you do not need tube 
feedings right at this time. You were safely discharged home 
with pain medications, and will follow-up with Dr. ___. 
Consideration will be given to starting tube feedings in the 
future.

Please do not drink or drive while taking narcotic pain 
medication. You may shower; your dressings can be changed as you 
need (you have been taught how to do this). You are going home 
with the tube clamped off; it will be used in the future. 

It was a pleasure being a part of your care, and we wish you all 
the best.

Sincerely,
Your ___ Surgical Team

 
Followup Instructions:
___